US09023846B2
A 2.25 L plastic coated Parr bottle was charged with 3-tert-butyl-4-chloro-N-(6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-yl)-1-methyl-1H-pyrazole-5-carboxamide (55.30 g, 0.115 mol) and ethyl acetate (0.55 L). To the resulting slurry was added a slurry of 5% Pt(Sulfided)/C (2.80 g) in ethyl acetate (˜20 mL). The resulting mixture was agitated under 35-40 psi hydrogen gas, recharging with hydrogen gas as needed. After 3 h, hydrogen uptake ceased. The resulting mixture was filtered through CELITE to remove catalyst and the filter cake washed with ethyl acetate. The filtrate was concentrated to yield N-(3-amino-6-(2-chlorophenyl)-2-methoxypyridin-4-yl)-3-tert-butyl-4-chloro-1-methyl-1H-pyrazole-5-carboxamide as a off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 1.42 (s, 9H), 3.98 (br. s., 2H), 4.06 (s, 3H), 4.15 (s, 3H), 7.27-7.35 (m, 2H), 7.44 (dd, J=7.83, 1.22 Hz, 1H), 7.55 (s, 1H), 7.63 (dd, J=7.58, 1.71 Hz, 1H), 8.54 (br. s., 1H)

reactant | 3-tert-butyl-4-chloro-N-(6-(2-chlorophenyl)-2-methoxy-3-nitropyridin-4-yl)-1-methyl-1H-pyrazole-5-carboxamide | 0.115 mol, 55.30 g | C(C)(C)(C)C1=NN(C(=C1Cl)C(=O)NC1=C(C(=NC(=C1)C1=C(C=CC=C1)Cl)OC)[N+](=O)[O-])C | C21H21Cl2N5O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | ˜20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.55 L | C(C)(=O)OCC | C4H8O2
product | N-(3-amino-6-(2-chlorophenyl)-2-methoxypyridin-4-yl)-3-tert-butyl-4-chloro-1-methyl-1H-pyrazole-5-carboxamide | NC=1C(=NC(=CC1NC(=O)C1=C(C(=NN1C)C(C)(C)C)Cl)C1=C(C=CC=C1)Cl)OC | C21H23Cl2N5O2
